US06960607B2
Step a) 6-Methoxy-3-(6-methoxy-2-naphthyl)-1-methyl-1H-indazole.
A mixture of (2-fluoro-4-methoxyphenyl)(6-methoxy-2-naphthyl)methanone (1.0 g, 3.22 mmol), 1-methylhydrazine (0.74 g, 16.1 mmol), pyridine (10 mL), and 4-dimethylaminopyridine (0.39 g, 3.22 mmol) was stirred at 100° C. for 12 h. The mixture poured in the water, extracted with ethyl ether, washed with HCl (2N), and dried over MgSO4. Evaporation and crystallization from ethyl ether/hexanes gave an off-white solid (0.82 g, 80% yield, m.p. 166-168° C.); MS m/e 319 (M+H)+.

reactant | (2-fluoro-4-methoxyphenyl)(6-methoxy-2-naphthyl)methanone | 3.22 mmol, 1.0 g | FC1=C(C=CC(=C1)OC)C(=O)C1=CC2=CC=C(C=C2C=C1)OC | C19H15FO3
reactant | 1-methylhydrazine | 16.1 mmol, 0.74 g | CNN | CH6N2
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 3.22 mmol, 0.39 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 6-Methoxy-3-(6-methoxy-2-naphthyl)-1-methyl-1H-indazole | 0.82 g, 80% yield | COC1=CC=C2C(=NN(C2=C1)C)C1=CC2=CC=C(C=C2C=C1)OC | C20H18N2O2
